US08865698B2
Step C: Preparation of (R)—N-(5-(2-(2-(difluoromethyl)-5-fluorophenyl) pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)-3-hydroxyazetidine-1-carboxamide:
To a DCM (0.6 mL) solution of (R)-5-(2-(2-(difluoromethyl)-5-fluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-amine (10 mg, 0.028 mmol, prepared as described in the following paragraph), was added CDI (9 mg, 0.056 mmol) at ambient temperature in one portion. After stirring two hours, azetidin-3-ol hydrochloride (6 mg, 0.056 mmol) was added in one portion, followed by addition of DIEA (0.015 mL, 0.084 mmol). The reaction was stirred overnight before it was concentrated and directly purified by reverse-phase column chromatography, eluting with 0 to 50% acetonitrile/water to yield the final product as a solid. MS (apci) m/z=447.2 (M+H).

reactant | (R)-5-(2-(2-(difluoromethyl)-5-fluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-amine | FC(C1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2N)F | C17H16F3N5
reactant | CDI | 0.056 mmol, 9 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | azetidin-3-ol hydrochloride | 0.056 mmol, 6 mg | Cl.N1CC(C1)O
reactant | DIEA | 0.084 mmol, 0.015 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 0.6 mL | C(Cl)Cl | CH2Cl2
product | (R)—N-(5-(2-(2-(difluoromethyl)-5-fluorophenyl) pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)-3-hydroxyazetidine-1-carboxamide | FC(C1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2NC(=O)N2CC(C2)O)F | C21H21F3N6O2
